US08071807B2
Step 6: {3-[4-(4-Chloro-benzoylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
To {3-[4-amino-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester (0.200 g, 0.47 mmol) and triethylamine (0.08 mL, 0.56 mmol) in CH2Cl2 was added 4-chlorobenzoyl chloride (0.07 mL, 0.56 mmol), and the reaction was stirred at room temperature for 1 hour. The mixture was concentrated and used directly in the hydrolysis step.

reactant | {3-[4-amino-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | 0.47 mmol, 0.200 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CSCC(F)(F)F)=O | C20H22F3NO4S
reactant | triethylamine | 0.56 mmol, 0.08 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoyl chloride | 0.56 mmol, 0.07 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {3-[4-(4-Chloro-benzoylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)Cl)=O)CSCC(F)(F)F)=O | C27H25ClF3NO5S
